US07214798B2
2.3. 3-[1-(1-Isoquinolyl)-4-piperidyl]propanenitrile
0.63 g (9.57 mmol) of potassium cyanide is added portionwise to a suspension of 2.63 g (9.57 mmol) of 1-[4-(2-chloroethyl)-1-piperidyl]isoquinoline, prepared in step 2.2, and 0.048 g (0.29 mmol) of potassium iodide in 30 ml of dimethyl sulfoxide. The reaction mixture is maintained at about 120° C. for 16 hours. The mixture is allowed to cool to room temperature and 90 ml of water and ethyl acetate are then added. The aqueous phase is separated out and extracted three times with ethyl acetate, the combined organic phases are washed with saturated aqueous sodium chloride solution and dried over sodium sulfate, and the filtrate is concentrated under reduced pressure. The residue thus obtained is purified by chromatography on silica gel, eluting with a 30/70 mixture of ethyl acetate and cyclohexane.

reactant | potassium cyanide | 9.57 mmol, 0.63 g | [C-]#N.[K+]
reactant | 1-[4-(2-chloroethyl)-1-piperidyl]isoquinoline | 9.57 mmol, 2.63 g | ClCCC1CCN(CC1)C1=NC=CC2=CC=CC=C12 | C16H19ClN2
reactant | potassium iodide | 0.29 mmol, 0.048 g | [I-].[K+]
reactant | water | 90 ml | O | H2O
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[1-(1-Isoquinolyl)-4-piperidyl]propanenitrile | C1(=NC=CC2=CC=CC=C12)N1CCC(CC1)CCC#N | C17H19N3
